*#######################################################################
*
* Copyright 2023 IHP PDK Authors
* 
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
* 
*    https://www.apache.org/licenses/LICENSE-2.0
* 
* Unless required by applicable law or agreed to in writing, software
*distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.
*
*#######################################################################
      
* SPICE-Parameter HBT-Transistor (nom.)
*
* Model:                                VBIC (Rev.1.15)
* Date:                                 25.05.18
* Lot:                                  EDJ802
* WAFER:                                02
* CHIP Nr:                              3.3
* Emitter size (mask):                  Nx *(0.07 x 0.90) µm^2 with Nx = 1 - 10
* Maximum collector-to-emitter voltage: 1.6
* Measurement data:                     T356_EDJ802_W02_3.3
* Meas. Range forward gummel:           vbe = (0.3 - 1.04)V
* Meas. Range forward output:           vce = (0.4 - 2.0)V
* Nom. Temperature  (TNOM):             27 grd C
* Meas. Temperature (TEMP):             27 grd C
* Valid range for model                 
* ic: <(0.003*Nx) A  vbe :(0.65 - 0.96) V  vce :(0.4 - 2.0) V
* Temp: -40°C - +125°C
* Valid numbers: NX = 1 - 10
* ________________________________________________________________________

.subckt npn13G2 c b e bn t
.param Nx=1 dtemp=0
+Ny=1 le=0.96e-6 we=0.12e-6
+El=le*1e6
+selft=1

Qnpn13G2 c b e s1 t npn13G2_NX_vbic dtemp=dtemp m=1

.model npn13G2_NX_vbic npn
+ level = 9
+ vbe_max = 1.6
+ vbc_max = 5.1
+ vce_max = 1.6
+ tnom = 27
+ cbeo = '8.00E-16*(Nx*0.25)**0.975'
+ cje = '8.418E-15*(Nx*0.25)**0.975*vbic_cje'
+ pe = 0.92
+ me = 0.12
+ aje = -0.50
+ wbe = 1.00
+ cbco = '2.36E-15*(Nx*0.25)'
+ cjc = '1.53E-15*(Nx*0.25)*vbic_cjc'
+ pc = 0.558
+ mc = 0.12
+ ajc = -0.50
+ cjep = '3.56E-15*(Nx*0.25)*vbic_cjc'
+ cjcp = '4.56E-15*(Nx*0.25)**0.8*vbic_cjcp'
+ ps = 0.46
+ ms = 0.23
+ ajs = -0.50
+ fc = 0.80
+ vef = 189
+ ver = 5.3
+ is = '4.81E-17*(Nx*0.25)*vbic_is'
+ nf = 1.018
+ ibei = '1.9E-19*(Nx*0.25)*vbic_ibei'
+ nei = 1.066
+ iben = '4.00E-16*(Nx*0.25)'
+ nen = 2.00
+ ikf = '0.009*(Nx*0.25)'
+ nr = 1.01
+ ibci = '1.50E-20*(Nx*0.25)'
+ nci = 1.103
+ ibcn = '1.00E-15*(Nx*0.25)'
+ ncn = 1.96
+ ikr = '0.01*(Nx*0.25)'
+ wsp = 1
+ isp = '4.00E-20*(Nx*0.25)'
+ nfp = 1.04
+ ibcip = '2.00E-15*(Nx*0.25)**0.7'
+ ncip = 1.00
+ ibcnp = '5.00E-15*(Nx*0.25)'
+ ncnp = 1.50
+ ikp = '.00E-04*(Nx*0.25)'
+ ibeip = '4.00E-19*(Nx*0.25)'
+ ibenp = '2.00E-14*(Nx*0.25)'
+ re = '7.13E+00*(4/Nx)**1*vbic_re'
+ rcx = '1.3E+01*(4/Nx)**1*vbic_rcx'
+ rci = '1.29E+01*(4/Nx)**1'
+ qco = 1.00E-18
+ vo = 0.80
+ gamm = 2.25E-14
+ hrcf = 1000
+ rbx = '6.93E+00*(4/Nx)**0.95*vbic_rbx'
+ rbi = '2.20E+01*(4/Nx)**0.95*vbic_rbx'
+ rbp = '5.5*(4/Nx)'
+ rs = 1
+ avc1 = 2.40
+ avc2 = 10.81
+ tf = '2.08E-13*vbic_tf*((temper+273)/300)**0.7'
+ qtf = 1.00E-18
+ xtf = 10.0
+ vtf = 20.0
+ itf = '0.585*(Nx*0.25)'
+ tr = 3.50E-13
+ td = '2.80E-13*(Nx*0.25)**0'
+ cth = '1.60E-12*(Nx*0.25)**0.95'
+ rth = '1*selft*3.26E+03*(4/Nx)**0.9'
+ ea = 1.056
+ eaie = 1.056
+ eaic = 1.12
+ eais = 1.12
+ eane = 1.12
+ eanc = 1.12
+ eans = 1.12
+ xre = -0.42
+ xrb = 0.90
+ xrc = 0.245
+ xrs = 1.50
+ xvo = 1.50
+ xis = 2.30
+ xii = 3.30
+ xin = 3.30
+ tnf = 0.00015
+ tavc = -0.00188
+ kfn = '6.00E-9*(4/Nx)'
+ afn = 1.80
+ bfn = 1.00

Rsub s1 bn R = '300+100*Nx'
Rt t 0 R = 1e9
Csub s1 bn C = '2.30E-14-(1.50E-15*Nx)'
.ends npn13G2

*--------------------npn13g2l----------------------------------------------------

* Model:                                VBIC (Rev.1.15)
* Date:                                 25.05.18
* Lot:                                  EDJ802
* WAFER:                                02
* CHIP Nr:                              3.3
* Device:                               npn13g2l_VBIC_Q118
* Emitter size (mask):                  Nx *(0.07 x El) µm^2 with Nx = 1 - 4, El = 1 - 2.5 
* Maximum collector-to-emitter voltage: 1.6
* Measurement data:                     T356_EDJ802_W02_3.3
* Meas. Range forward gummel:           vbe = (0.3 - 1.04)V
* Meas. Range forward output:           vce = (0.4 - 2.0)V
* Nom. Temperature  (TNOM):             27 grd C
* Meas. Temperature (TEMP):             27 grd C
* Valid range for model
* ic: <(...Nx*El) A  vbe :(0.65 - 0.96) V  vce :(0.4 - 2.0) V
* Temp: -40°C - +125°C
* Valid numbers: Nx = 1 - 4, El = 1 - 2.5
* model card checked with SPECTRE 10.x and ADS2009U1
* ________________________________________________________________________

.subckt npn13G2l c b e bn t
.param Nx=1 le=2.50e-6 dtemp=0
+Ny=1 we=0.12e-6
+El=le*1e6
+selft=1

Qnpn13G2l c b e s1 t npn13G2l_NX_vbic dtemp=dtemp m=1

.model npn13G2l_NX_vbic npn
+ level = 9
+ vbe_max = 1.6
+ vbc_max = 5.1
+ vce_max = 1.6
+ tnom = 27
+ cbeo = '1.92E-15*(El/2.5)**0.85*(Nx*0.25)**0.95'
+ cje = '2.166E-14*(El/2.5)**0.85*(Nx*0.25)**0.95*vbic_cje'
+ pe = 0.92
+ me = 0.12
+ aje = -0.50
+ wbe = 1.00
+ cbco = '6.33E-15*(El/2.5)**0.85*(Nx*0.25)**0.975'
+ cjc = '3.83E-15*(El/2.5)**0.85*(Nx*0.25)**0.975*vbic_cjc'
+ pc = 0.558
+ mc = 0.12
+ ajc = -0.50
+ cjep = '7.77E-15*(El/2.5)**0.85*(Nx*0.25)**0.975*vbic_cjc'
+ cjcp = '8.36E-15*(El/2.5)**0.55*(Nx*0.25)**0.8*vbic_cjcp'
+ ps = 0.46
+ ms = 0.23
+ ajs = -0.50
+ fc = 0.80
+ vef = 189
+ ver = 5.3
+ is = '7.50E-17*(El/2.5)**0.85*(Nx*0.25)*vbic_is'
+ nf = 1.004
+ ibei = '2.01E-19*(El/2.5)**0.85*(Nx*0.25)*vbic_ibei'
+ nei = 1.035
+ iben = '1.20E-15*(El/2.5)**0.85*(Nx*0.25)'
+ nen = 2.00
+ ikf = '0.032*(El/2.5)*(Nx*0.25)'
+ nr = 1.01
+ ibci = '3.00E-19*(El/2.5)*(Nx*0.25)'
+ nci = 1.050
+ ibcn = '1.00E-15*(El/2.5)*(Nx*0.25)'
+ ncn = 1.70
+ ikr = '0.01*(El/2.5)*(Nx*0.25)'
+ wsp = 1
+ isp = '4.00E-20*(El/2.5)*(Nx*0.25)'
+ nfp = 1.04
+ ibcip = '2.00E-15*(El/2.5)*(Nx*0.25)**0.7'
+ ncip = 1.00
+ ibcnp = '5.00E-15*(El/2.5)*(Nx*0.25)'
+ ncnp = 1.50
+ ikp = '1.00E-04*(El/2.5)*(Nx*0.25)'
+ ibeip = '4.00E-19*(El/2.5)*(Nx*0.25)'
+ ibenp = '2.00E-14*(El/2.5)*(Nx*0.25)'
+ re = '3.19E+00*(2.5/El)*(4/Nx)**0.88*vbic_re'
+ rcx = '3.90E+00*(2.5/El)*(4/Nx)**0.9*vbic_rcx'
+ rci = '7.50E+00*(2.5/El)**0.85*(4/Nx)**1'
+ qco = 1.00E-18
+ vo = 0.80
+ gamm = 3.00E-14
+ hrcf = 1000
+ rbx = '2.54E+00*(2.5/El)**0.7*(4/Nx)*vbic_rbx'
+ rbi = '7.26E+00*(2.5/El)**0.7*(4/Nx)*vbic_rbx'
+ rbp = '15.0*(2.5/El)**0.7*(4/Nx)'
+ rs = '1*(2.5/El)*(4/Nx)'
+ avc1 = 2.40
+ avc2 = 10.81
+ tf = '2.31E-13*(El/2.5)**0.15*vbic_tf*((temper+273)/300)**0.7'
+ qtf = 1.00E-18
+ xtf = 10.0
+ vtf = 20.0
+ itf = '1.658*(El/2.5)*(Nx*0.25)'
+ tr = 5.00E-13
+ td = '2.8e-13*(El/2.5)'
+ cth = '4.18E-12*(El/2.5)**0.8*(Nx*0.25)**0.8'
+ rth = 'selft*1.63E+03*(2.5/El)**0.85*(4/Nx)**0.8'
+ ea = 1.045
+ eaie = 1.078
+ eaic = 1.12
+ eais = 1.12
+ eane = 1.12
+ eanc = 1.12
+ eans = 1.12
+ xre = -0.42
+ xrb = 0.90
+ xrc = 0.420
+ xrs = 1.50
+ xvo = 1.50
+ xis = 2.30
+ xii = 3.30
+ xin = 3.30
+ tnf = 0.00015
+ tavc = -0.00188
+ kfn = '3.00E-9*(2.5/El)*(4/Nx)'
+ afn = 1.80
+ bfn = 1.00

Rsub s1 bn R = '(300+(400*Nx))*(El/2.5)**0.5'
Csub s1 bn C = '(1.70E-14-(2.00E-15*Nx))*(El/2.5)**0'
Rt t 0 R = 1e9
.ends npn13G2l

*--------------------npn13g2v----------------------------------------------------

* Model:                                VBIC (Rev.1.15)
* Date:                                 25.05.18
* Lot:                                  EDJ802
* WAFER:                                02
* CHIP Nr:                              3.3
* Device:                               npn13g2v_VBIC_Q118
* Emitter size (mask):                  Nx *(0.12 x El) µm^2 with Nx = 1 - 4, El = 1.0 - 5.0 
* Maximum collector-to-emitter voltage: 2.5
* Measurement data:                     T356_EDJ802_W02_3.3
* Meas. Range forward gummel:           vbe = (0.3 - 1.0)V
* Meas. Range forward output:           vce = (0 - 3.0)V
* Nom. Temperature  (TNOM):             27 grd C
* Meas. Temperature (TEMP):             27 grd C
* Valid range for model
* ic: <(0.50*Nx*El) A  vbe :(0.65 - 0.84) V  vce :(0.8 - 2.3) V
* Temp: -40°C - +125°C
* Valid numbers: Nx = 1 - 4, El = 1 - 5
* model card checked with SPECTRE 10.x and ADS2009U1
* ________________________________________________________________________

.subckt npn13G2v c b e bn t
.param Nx=1 le=2.50e-6 dtemp=0
+Ny=1 we=0.12e-6
+El=le*1e6
+selft=1

Qnpn13G2v c b e s1 t npn13G2v_NX_vbic dtemp=dtemp m=1

.model npn13G2v_NX_vbic npn
+ level = 9
+ vbe_max = 1.6
+ vbc_max = 7.0
+ vce_max = 2.2
+ tnom = 27
+ cbeo = '2.28E-15*(El/2.5)**0.94*(Nx*0.25)**0.95'
+ cje = '2.594E-14*(El/2.5)**0.94*(Nx*0.25)**0.95*vbic_cje'
+ pe = 0.88
+ me = 0.13
+ aje = -0.50
+ wbe = 1.00
+ cbco = '4.37E-15*(El/2.5)**0.85*(Nx*0.25)**0.975'
+ cjc = '2.52E-15*(El/2.5)**0.85*(Nx*0.25)**0.975*vbic_cjc'
+ pc = 0.397
+ mc = 0.09
+ ajc = -0.50
+ cjep = '6.48E-15*(El/2.5)**0.85*(Nx*0.25)**0.975*vbic_cjc'
+ cjcp = '7.60E-15*(El/2.5)**0.65*(Nx*0.25)**0.5*vbic_cjcp'
+ ps = 0.31
+ ms = 0.16
+ ajs = -0.50
+ fc = 0.80
+ vef = 189
+ ver = 5.3
+ is = '1.22E-16*(El/2.5)**0.8*(Nx*0.25)*vbic_is'
+ nf = 1.016
+ ibei = '3.02E-19*(El/2.5)**0.925*(Nx*0.25)*vbic_ibei'
+ nei = 1.043
+ iben = '1.44E-15*(El/2.5)**0.925*(Nx*0.25)'
+ nen = 2.00
+ ikf = '0.022*(El/2.5)*(Nx*0.25)'
+ nr = 1.01
+ ibci = '7.50E-19*(El/2.5)*(Nx*0.25)'
+ nci = 1.050
+ ibcn = '1.00E-15*(El/2.5)*(Nx*0.25)'
+ ncn = 1.70
+ ikr = '0.01*(El/2.5)*(Nx*0.25)'
+ wsp = 1
+ isp = '4.00E-20*(El/2.5)*(Nx*0.25)'
+ nfp = 1.04
+ ibcip = '2.00E-15*(El/2.5)*(Nx*0.25)**0.7'
+ ncip = 1.00
+ ibcnp = '5.00E-15*(El/2.5)*(Nx*0.25)'
+ ncnp = 1.50
+ ikp = '1.00E-04*(El/2.5)*(Nx*0.25)'
+ ibeip = '4.00E-19*(El/2.5)*(Nx*0.25)'
+ ibenp = '2.00E-14*(El/2.5)*(Nx*0.25)'
+ re = '3.30E+00*(2.5/El)*(4/Nx)**0.88*vbic_re'
+ rcx = '1.30E+01*(2.5/El)*(4/Nx)**0.9*vbic_rcx'
+ rci = '1.53E+02*(2.5/El)**0.9*(4/Nx)'
+ qco = 1.00E-18
+ vo = 2.40
+ gamm = 3.30E-12
+ hrcf = 1000
+ rbx = '1.54E+00*(2.5/El)**0.75*(4/Nx)*vbic_rbx'
+ rbi = '6.60E+00*(2.5/El)**0.75*(4/Nx)*vbic_rbx'
+ rbp = '6.5*(2.5/El)**0.75*(4/Nx)'
+ rs = '1*(2.5/El)*(4/Nx)'
+ avc1 = 2.40
+ avc2 = 17.14
+ tf = '4.10E-13*(El/2.5)**0*vbic_tf*((temper+273)/300)**0.7'
+ qtf = 1.00E-18
+ xtf = 60.0
+ vtf = 20.0
+ itf = '0.390*(El/2.5)*(Nx*0.25)'
+ tr = 1.50E-12
+ td = '5.60E-13*(El/2.5)'
+ cth = '4.40E-12*(El/2.5)**1*(Nx*0.25)**0.8'
+ rth = 'selft*1.55E+03*(2.5/El)**1*(4/Nx)**0.88'
+ ea = 1.030
+ eaie = 1.056
+ eaic = 1.12
+ eais = 1.12
+ eane = 1.12
+ eanc = 1.12
+ eans = 1.12
+ xre = -0.35
+ xrb = 0.90
+ xrc = 0.175
+ xrs = 1.50
+ xvo = 1.50
+ xis = 2.70
+ xii = 3.00
+ xin = 3.00
+ tnf = 0.00015
+ tavc = -0.00075
+ kfn = '6.00E-7*(2.5/El)*(4/Nx)'
+ afn = 2.20
+ bfn = 1.00

Rsub s1 bn R = '(300+(400*Nx))*(El/2.5)**0.85'
Csub s1 bn C = '(1.70E-14-(2.00E-15*Nx))*(El/2.5)**0'
Rt t 0 R = 1e9
.ends npn13G2v

*******************************************************************************
* pnpMPA section
*******************************************************************************
*--------------------------------------------------
* Testfield: T323
* Technology: SG13
* Lot: PQA701
* Wafer: 17
* DUT: diode_pp=pnpMPA
* Temperature range: -40C ... +125C
* Date: 21.10.2022
* DC Measurements at T=27C, T=-40C and T=125C (2013), 2022 only T=27C
* CV Measurements at T=27C
*
*--------------------------------------------------------------------------
*
.param ccb0 = 970e-018  isc0 = 2e-023  ikr0 = 4e-007  rc0 = 1e+003  rb0 = 700
*
.subckt pnpMPA e b c
.param a=2p p=6u ac=13.33p pc=14.64u
+ dev_a=a*1e12 dev_p=p*1e6 sub_a=ac*1e12 sub_p=pc*1e6

QpnpMPA e b c pnpMPA_mod area=dev_a

.model pnpMPA_mod pnp
+ level = 1
+ tnom = 27
+ is = '1.660E-19*sgp_mpa_is'
+ nf = 1.015
+ ise = 1e-022
+ ne = 1
+ bf = '1.10*sgp_mpa_bf'
+ ikf = 0.0003
+ vaf = 100
+ nr = 1
+ isc = '(isc0*(sub_a))/(dev_a)'
+ nc = 1
+ br = 0.00015
+ ikr = '(ikr0*(sub_a))/(dev_a)'
+ var = 150
+ rb = 'rb0*sgp_mpa_rb'
+ irb = 1e-015
+ rbm = '0.9*rb0*sgp_mpa_rb'
+ re = '20*sgp_mpa_re'
+ rc = '(rc0/(sub_a))*(dev_a)*sgp_mpa_rc'
+ cje = '1.72e-015*sgp_mpa_cje'
+ vje = 0.46
+ mje = 0.126
+ cjc = '((ccb0*(sub_a))/(dev_a))*sgp_mpa_cjc'
+ vjc = 0.58
+ mjc = 0.3
+ cjs = 0
+ vjs = 0.95
+ mjs = 0.5
+ xtb = 2.44
+ xti = 2.54
+ eg = 1.17
+ trm1 = 0.001
+ trm2 = 0
+ trc1 = -0.01121
+ trc2 = 3.02E-005
+ tre1 = 0
+ tre2 = 0
.ends pnpMPA
